US04961631
4-Methoxyphenylacetonitrile (7.63 g, 50 mmol) in toluene (30 mL), PEG(E)-400 (4 g, 10 mmol) and 52% aqueous sodium hydroxide (10.73 g in 12.4 mL water) were placed in a flask equipped with a magnetic stirrer. 4-Nitrobenzaldehyde (7.56 g, 50 mmol) in a minimum of toluene was added dropwise. The mixture was stirred for 1 h at 20° C. and then diluted with water (30 mL). The organic layer was separated, washed with water (3×40 mL) and dried with sodium sulfate. The solvent was removed under reduced pressure and the residue was recrystallized from toluene at -20° C. to give 1-cyano-1-(4-methoxyphenyl)-2-(4-nitrophenyl)ethylene (yield=0.913 g, 6.5%).

reactant | 4-Methoxyphenylacetonitrile | 50 mmol, 7.63 g | COC1=CC=C(C=C1)CC#N | C9H9NO
reactant | sodium hydroxide | 12.4 mL, 10.73 g | [OH-].[Na+]
reactant | 4-Nitrobenzaldehyde | 50 mmol, 7.56 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 30 mL | O | H2O
product | 1-cyano-1-(4-methoxyphenyl)-2-(4-nitrophenyl)ethylene | yield=0.913 g, 6.5% | C(#N)C(=CC1=CC=C(C=C1)[N+](=O)[O-])C1=CC=C(C=C1)OC | C16H12N2O3
